US08980888B2
<Step 1> Synthesis of methyl 2-amino-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate
Ethoxycarbonyl isothiocyanate (9.0 g) was added to a 1,4-dioxane (100 ml) suspension of 2-aminopyridine-4-carboxylic acid methyl ester (10 g) at an internal temperature of 19° C. to 23° C. over 20 minutes. The obtained mixture was stirred for 90 minutes at the same temperature as described above, and was then concentrated under reduced pressure to obtain a crude product. The obtained crude product was added to a mixed suspension of methanol (70 ml) and ethanol (70 ml) containing hydroxyamine hydrochloride (22.8 g) and diisopropylethylamine (34 ml), and thereafter, the reaction solution was stirred at room temperature for 67 hours, at 60° C. for 5 hours, and again, at room temperature for 20 hours. Thereafter, the generated solid was collected, and it was washed with ethanol (30 ml) and was then dried, so as to obtain the title compound (11.3 g) in the form of a white solid.

reactant | Ethoxycarbonyl isothiocyanate | 9.0 g | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | 2-aminopyridine-4-carboxylic acid methyl ester | 10 g | COC(=O)C1=CC(=NC=C1)N | C7H8N2O2
reactant | hydroxyamine hydrochloride | 22.8 g | Cl.ON
reactant | diisopropylethylamine | 34 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | methanol | 70 ml | CO | CH4O
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | methyl 2-amino-[1,2,4]triazolo[1,5-a]pyridine-7-carboxylate | 11.3 g | NC1=NN2C(C=C(C=C2)C(=O)OC)=N1 | C8H8N4O2
